US09387200B2
f) {[3-(2-Fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid
The title compound was synthesized in analogy to Example 1 from 3-(2-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and glycine: MS (m/z) 348.1 (M+1).

reactant | 3-(2-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)SN=C2C2=C(C=CC=C2)F)O | C15H11FN2O3S
reactant | glycine | NCC(=O)O | C2H5NO2
product | {[3-(2-Fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | FC1=C(C=CC=C1)C1=NSC2=CN=C(C(=C21)O)C(=O)NCC(=O)O | C15H10FN3O4S
